US06451811B2
6-Bromo-N-(4-chlorobenzyl)-4-hydroxy-7-methyl[1,8]naphthyridine-3-carboxamide
A solution of ethyl 6-bromo-4-hydroxy-7-methyl[1,8]naphthyridine-3-carboxylate (0.57 g, 1.83 mmol) and 4-chlorobenzylamine (2.59 g, 18.30 mmol) is heated to 180° C. for 1 h. The mixture is cooled and diluted with EtOAc. The resulting precipitate is collected and dried. Physical characteristics are as follows: m.p. 269-270° C.; 1H NMR (DMSO-d6) δ 13.21, 10.09, 8.67, 8.62, 7.38, 4.54, 2.71; IR (drift) 3028, 2974, 2907, 1653, 1598, 1555, 1526, 1493, 1410, 1354, 1326, 1242, 1096, 806, 639 cm−1; Anal. Calcd for C17H13BrClN3O2: C, 50.21; H, 3.22; N, 10.33; Found: C, 50.31; H, 3.23; N, 10.17.

reactant | ethyl 6-bromo-4-hydroxy-7-methyl[1,8]naphthyridine-3-carboxylate | 1.83 mmol, 0.57 g | BrC=1C=C2C(=C(C=NC2=NC1C)C(=O)OCC)O | C12H11BrN2O3
reactant | 4-chlorobenzylamine | 18.30 mmol, 2.59 g | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-Bromo-N-(4-chlorobenzyl)-4-hydroxy-7-methyl[1,8]naphthyridine-3-carboxamide | BrC=1C=C2C(=C(C=NC2=NC1C)C(=O)NCC1=CC=C(C=C1)Cl)O | C17H13BrClN3O2
